US05268501
A 28 % solution of sodium methylate in methanol (19.3 g) and methanol (50 g) are charged in a flask, and the mixture is cooled to 0° C. To the mixture is added dimethyl malonate (13.2 g) and the mixture is stirred at 50° C. for 1 hour. To the mixture is added 1-bromo-5-chloropentane (18.6 g) and stirred under refluxing for 14 hours. The reaction mixture is concentrated under reduced pressure, and to the residue are added toluene (200 g) and water (100 ml) and the mixture is further stirred. The organic layer is separated and magnesium sulfate (10 g) is added to the organic layer. The mixture is filtered and the filtrate is concentrated. Separately, a 43.5 % nitrosylsulfuric acid solution (35.3 g) is charged in another flask and cooled to 0° C. To the mixture is added dropwise the above concentrated organic layer over a period of 1 hour. The mixture is stirred at 0° C. for 1 hour, and the temperature thereof is raised to 20° C. The mixture is stirred at the same temperature for 1 hour. Separately, toluene (100 g) and 10 % aqueous formalin solution (100 g) are charged in another flask and cooled to 5° C. Thereto is added dropwise the above reaction mixture over a period of 1 hour. The reaction mixture is kept at 5° C. for 1 hour, and stirred at 20° C. for 12 hours. The organic layer is separated and washed with water, and to the mixture is added magnesium sulfate (5 g) and filtered. The filtrate is concentrated under reduced pressure to give crude methyl 7-chloro-2-oxoheptanoate (24 g), which is purified by distillation under reduced pressure to give methyl 7-chloro-2-oxoheptanoate (14.3 g).

reactant | sodium methylate | C[O-].[Na+]
reactant | dimethyl malonate | 13.2 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1-bromo-5-chloropentane | 18.6 g | BrCCCCCCl | C5H10BrCl
solvent | methanol | 19.3 g | CO | CH4O
solvent | methanol | 50 g | CO | CH4O
product | methyl 7-chloro-2-oxoheptanoate | 14.3 g | ClCCCCCC(C(=O)OC)=O | C8H13ClO3
